US07745484B2
N-((1S,2R)-3-(((2S,4S)-6-bromo-2-methyl-2-(trifluoromethyl)-3,4-dihydro-2H-chromen-4-yl)amino)-2-hydroxy-1-(phenylmethyl)propyl)acetamide
To a solution of (2R,3S)-3-amino-1-((4S)-6-bromo-2-methyl-2-(trifluoromethyl)-3,4-dihydro-2H-chromen-4-ylamino)-4-phenylbutan-2-ol dihydrochloride (160 mg, 338 mmol) in DMF was added 1-(1H-imidazol-1-yl)ethanone (37.2 mg, 338 μmol) followed by DIPEA (177 μl, 1014 μmol). The reaction was stirred at RT for 30 min, then diluted with MeOH and purified on Shimadzu HPLC to afford 43.0 mg of the title compounds as a mixture. MS m/z: 515, 517.

reactant | (2R,3S)-3-amino-1-((4S)-6-bromo-2-methyl-2-(trifluoromethyl)-3,4-dihydro-2H-chromen-4-ylamino)-4-phenylbutan-2-ol dihydrochloride | 338 mmol, 160 mg | Cl.Cl.N[C@H]([C@@H](CN[C@H]1CC(OC2=CC=C(C=C12)Br)(C(F)(F)F)C)O)CC1=CC=CC=C1
reactant | 1-(1H-imidazol-1-yl)ethanone | 338 μmol, 37.2 mg | N1(C=NC=C1)C(C)=O | C5H6N2O
reactant | DIPEA | 1014 μmol, 177 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-((1S,2R)-3-(((2S,4S)-6-bromo-2-methyl-2-(trifluoromethyl)-3,4-dihydro-2H-chromen-4-yl)amino)-2-hydroxy-1-(phenylmethyl)propyl)acetamide | 43.0 mg | BrC=1C=C2[C@H](C[C@](OC2=CC1)(C(F)(F)F)C)NC[C@H]([C@H](CC1=CC=CC=C1)NC(C)=O)O | C23H26BrF3N2O3
